US05412097
Step 2: Preparation of 2-t-butylsulfonamido-5-ethylphenylboric acid (Scheme 27, compound 95, R2a =ethyl).
To a solution of 4-ethylphenyl-t-butylsulfonamide (6.44 g, 26.7 mmoL) in anhydrous THF (60 mL) cooled to -20° C. under N2 was added 2.5M n-BuLi solution (27 mL, 2.5 equiv). The mixture was warmed to rt and stirred for 2 h. To the mixture, containing the bright orange dianion at 0° C., was added B(OiPr)3 (9.3 mL, 1.5 equiv). The reaction was allowed to warm to rt and stirred overnight. The next day 2N HCl (3 mL) was added and the mixture was stirred for 1 h. The solvent was removed under reduced pressure and the residue was extracted with EtOAc. The organic was washed with 2N HCl, H2O and brine. The organic was dried over anhydrous MgSO4 and concentrated in vacuo to afford the titled compound. Rf=0.5 (1:1 EtOAc/Hex). The material was used in subsequent steps without further purification.

reactant | 4-ethylphenyl-t-butylsulfonamide | 6.44 g | C(C)C1=CC=C(C=C1)NS(=O)(=O)C(C)(C)C | C12H19NO2S
reactant | n-BuLi | 2.5M, 27 mL, 2.5 equiv | [Li]CCCC
reactant | B(OiPr)3 | 9.3 mL, 1.5 equiv | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 2N, 3 mL | Cl | ClH
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 2-t-butylsulfonamido-5-ethylphenylboric acid | C(C)(C)(C)S(=O)(=O)NC1=C(C=C(C=C1)CC)OB(O)O | C12H20BNO5S
